US07595315B2
Add 2-Phenoxy-benzoic acid (1 g, 4.67 mmol), in several portions, to a suspension of Lithium aluminium hydride (372 mg, 9.33 mmol) in dry THF (20 ml) at room temperature and stir. After 1 h, add aqueous 1M HCl dropwise carefully, then pour into H2O and extract three times with Et2O. Combine the organic phases, dry over Na2SO4 and concentrate at vacuum to yield pure (2-Phenoxy-phenyl)-methanol as courless oil. Add aqueous concentrated HBr (16 ml) to a solution of (2-Phenoxy-phenyl)-methanol (900 mg, 4.5 mmol) in CH2Cl2 (5 ml) and stir at room temperature. After 1 h. separate the organic phase and wash the aqueous one with CH2Cl2. Combine organic phases, wash with H2, dry over Na2SO4 and concentrate at vacuum to obtain a residue. Purify the residue by column chromatography on silica gel eluting with hexane:CH2Cl2, 2:1 to afford 1-Bromomethyl-2-phenoxy-benzene as colourless oil. 1H-NMR (CDCl3, 200 MHz): δ 7.44-7.01 (m, 8H), 6.84 (d, J=1.2 and 8.0 Hz, 1H), 4.60 (s, 2H).

reactant | 2-Phenoxy-benzoic acid | 4.67 mmol, 1 g | O(C1=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O3
reactant | Lithium aluminium hydride | 9.33 mmol, 372 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | HCl | 1M | Cl | ClH
reactant | H2O | O | H2O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | (2-Phenoxy-phenyl)-methanol | O(C1=CC=CC=C1)C1=C(C=CC=C1)CO | C13H12O2
